US07557213B2
A 4M solution of hydrochloric acid in dioxane (4 mL) was added to 381 mg (0.991 mmol) of 1-(4-Methoxy-benzyl)-3-(5-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one and was heated in a pressure tube at 120° C. for 18 h. The reaction was concentrated and saturated sodium bicarbonate was added and the aqueous phase was extracted with dichloromethane (3×20 mL). The crude product was purified by flash column chromatography using a gradient of 70:30 ethyl acetate/methanol to afford 68.4 mg of 3-(5-Methyl-pyridine-2-carbonyl)-1H-quinolin-4-one.

reactant | hydrochloric acid | Cl | ClH
reactant | 1-(4-Methoxy-benzyl)-3-(5-methyl-pyridine-2-carbonyl)-1H-quinolin-4-one | 0.991 mmol, 381 mg | COC1=CC=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C2=NC=C(C=C2)C)C=C1 | C24H20N2O3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 3-(5-Methyl-pyridine-2-carbonyl)-1H-quinolin-4-one | 68.4 mg | CC=1C=CC(=NC1)C(=O)C1=CNC2=CC=CC=C2C1=O | C16H12N2O2
